US04355037
3-(1-Cyano-4-piperidyl)-1,2-benzisoxazole
A suspension of 4.8 g of 3-(4-piperidyl)-1,2-benzisoxazole, 2.7 g of cyanogen bromide, 5.0 g of sodium bicarbonate and 3.0 g of potassium iodide in 100 ml of chloroform was heated under reflux overnight. The reaction was cooled to room temperature, filtered and concentrated in vacuo to give a solid. The benzisoxazole was purified on 120 g of silica gel, eluted with chloroform and recrystallized twice from acetone-hexane to give 3.4 g (62.3%) of product, mp, 115°-117°.

reactant | 3-(4-piperidyl)-1,2-benzisoxazole | 4.8 g | N1CCC(CC1)C1=NOC2=C1C=CC=C2 | C12H14N2O
reactant | cyanogen bromide | 2.7 g | N#CBr | CBrN
reactant | sodium bicarbonate | 5.0 g | C([O-])(O)=O.[Na+]
reactant | potassium iodide | 3.0 g | [I-].[K+]
solvent | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-(1-Cyano-4-piperidyl)-1,2-benzisoxazole | 3.4 g, 62.3% | C(#N)N1CCC(CC1)C1=NOC2=C1C=CC=C2 | C13H13N3O
